US05880135
6.3 g of 55% NaH are added, at 0° C., under an argon atmosphere, to 20 g of 5-nitroindole in solution in 200 ml of dimethylformamide. After stirring for 15 minutes at 0° C., 27.1 g of tetrahydropyranyl chloride are added to the reaction mixture. After stirring for 24 hours at room temperature, the reaction mixture is poured onto 1200 ml of ice-cold water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on a column of silica gel eluted with a 4/1 (v/v) cyclohexane/ethyl acetate mixture, to provide 19 g of 5-nitro-1-tetrahydropyran-2-ylindole. 1H NMR (DMSO): 1.34-2.12 (m, 6H), 3.67-4.48 (m, 2H), 5.70 (dd, J=2.0, 10.2, 1H), 6.75 (d, J=3.4, 1H), 7.72-7.76 (m, 2H), 8.02 (dd, J=2.2, 9.2, 1H), 8.54 (d, J=2.2, 1H).

reactant | NaH | 6.3 g | [H-].[Na+]
reactant | 5-nitroindole | 20 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | tetrahydropyranyl chloride | 27.1 g | O1C(CCCC1)Cl | C5H9ClO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 5-nitro-1-tetrahydropyran-2-ylindole | 19 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)C1OCCCC1 | C13H14N2O3
